US06960575B2
(3RS)-3-Benzoylamino-2-oxo-4-phenyl-1,1,1-trifluorobutane (Reference compound No. 30-1)
A solution of (4RS)-2-phenyl-4-phenylmethyl-5(4H)-oxazolone (3.65 g, Reference compound No. 29-1) in trifluoroacetic anhydride (6.13 g) is stirred for one day under a nitrogen atmosphere. The solution is concentrated under reduced pressure, and oxalic acid (1.97 g) is added to the resulting residue. The mixture is heated at 120° C. and stirred for 30 minutes. The reaction mixture is cooled with ice, water is added to the mixture, and the whole is extracted with ethyl acetate. The extract is washed with water, a saturated aqueous sodium hydrogencarbonate solution and saturated brine successively and dried over anhydrous magnesium sulfate. The extract is concentrated under reduced pressure to give the titled reference compound (3.23 g).

reactant | (4RS)-2-phenyl-4-phenylmethyl-5(4H)-oxazolone | C1(=CC=CC=C1)C=1OC(C(N1)CC1=CC=CC=C1)=O | C16H13NO2
reactant | trifluoroacetic anhydride | 6.13 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (3RS)-3-Benzoylamino-2-oxo-4-phenyl-1,1,1-trifluorobutane | 3.23 g | C(C1=CC=CC=C1)(=O)NC(C(C(F)(F)F)=O)CC1=CC=CC=C1 | C17H14F3NO2
